US03932661
p-Chlorobenzoic acid (p-bromophenyl)hydrazide
A mixture consisting of 44.7 g. (0.20 mole) p-bromophenylhydrazine hydrochloride, 250 ml. diethyl ether, 70 ml. (0.504 mole) triethylamine, and 35.0 g. (0.20 mole) p-chlorobenzoyl chloride in 50 ml. diethyl ether (mixed in that order at -5° to -15°C. during 20 minutes) was stirred continuously for about 16 hrs. at about 25° C. The reaction mixture was filtered, and the solids on the filter were washed with water and then recrystallized from 95% ethanol. There was thus obtained 15.5 g. p-chlorobenzoic acid (p-bromophenyl)hydrazide having a melting point of 185° C. (dec.). An analytical sample melting at 184.5°C. (dec.) was obtained after two recrystallizations from ethyl acetate.

reactant | p-bromophenylhydrazine hydrochloride | 0.20 mole | Cl.BrC1=CC=C(C=C1)NN
reactant | triethylamine | 0.504 mole | C(C)N(CC)CC | C6H15N
reactant | p-chlorobenzoyl chloride | 0.20 mole | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | p-Chlorobenzoic acid (p-bromophenyl)hydrazide | BrC1=CC=C(C=C1)N(N)C(C1=CC=C(C=C1)Cl)=O | C13H10BrClN2O
